US04304924
To 3.7 g (20.3 mmol) of 4-(hydroxyethoxy)benzoic acid, 100 ml of dry THF and 5.3 g (50.75 mmol) of cyclopropylcarboxylic acid chloride, at 0°, is added 6.6 ml (81.2 mmol) of pyridine. The mixture is allowed to warm to RT and is stirred at RT for 6 days, after which it is filtered. The filtrate is stirred, at RT, with 0.7 ml (~40.6 mmol) of water for 6 days. Solvent is removed by rotoevaporation, and 150 ml of ethyl acetate, 150 ml of water and 40 ml of aqueous 3 N sulfuric acid are added to the residue. The aqueous layer is separated and extracted once with 50 ml of ethyl acetate. The combined organic layers are washed with water (100 ml), with aqueous saturated cupric sulfate (50 ml), again with water (100 ml) and with aqueous saturated sodium chloride (50 ml) and are then dried over calcium sulfate. Solvent is removed by rotoevaporation, and the crude product is washed with 20 ml hexane (3×) and dried to yield 4-(2-cyclopropylcarbonyloxyethoxy)benzoic acid.

reactant | 4-(hydroxyethoxy)benzoic acid | 20.3 mmol, 3.7 g | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
reactant | cyclopropylcarboxylic acid chloride | 50.75 mmol, 5.3 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | pyridine | 81.2 mmol, 6.6 ml | N1=CC=CC=C1 | C5H5N
reactant | water | ~40.6 mmol, 0.7 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(2-cyclopropylcarbonyloxyethoxy)benzoic acid | C1(CC1)C(=O)OCCOC1=CC=C(C(=O)O)C=C1 | C13H14O5
